US05374732
In a 25 ml flask, acetonitrile (6 ml) was added to 4,6-bistrifluoromethylpyridine-2-sulfonic acid (874 mg, 2.64 mmol) to prepare a homogeneous mixture. Then, the flask was dipped in a cooling bath kept at -40° C., and to the mixture, the fluorine gas diluted with the nitrogen gas to a concentration of 10% was introduced at a flow rate of 15 ml/min. The total amount of the fluorine gas was 211 ml. As the fluorination reaction proceeded, a precipitate was formed. After the reaction, only the nitrogen gas was introduced for 30 minutes. After the addition of ethyl ether to the mixture, the resulting precipitate was recovered by filtration to obtain N-fluoro-4,6-bistrifluoromethylpyridinium-2-sulfonate (787 mg). Yield, 95%. Melting point, 172°-174° C. (with decomposition).

reactant | acetonitrile | 6 ml | C(C)#N | C2H3N
reactant | 4,6-bistrifluoromethylpyridine-2-sulfonic acid | 2.64 mmol, 874 mg | FC(C1=CC(=NC(=C1)C(F)(F)F)S(=O)(=O)O)(F)F | C7H3F6NO3S
reactant | fluorine | FF | F2
solvent | ethyl ether | C(C)OCC | C4H10O
product | N-fluoro-4,6-bistrifluoromethylpyridinium-2-sulfonate | 787 mg | F[N+]1=C(C=C(C=C1C(F)(F)F)C(F)(F)F)S(=O)(=O)[O-] | C7H2F7NO3S
